US08957089B2
125.2 tert-Butyl 7-hydroxy-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate
1-[1-(Pyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-ol (1.75 g, 5.52 mmol) was suspended in dichloromethane (200 ml). Diisopropylethylamine (2.89 ml, 16.57 mmol) were added at 0° C. followed by di-tert-butyl dicarbonate (1.21 g, 5.52 mmol). The reaction mixture was allowed to warm to room temperature and stirring was continued over night. The reaction mixture was washed successively with aqueous ammonium chloride solution (3×) and aqueous sodium hydrogencarbonate. The organic layer was dried (MgSO4) and concentrated in vacuo. The crude product was used without further purification for the next step. Yield: 2.1 g.

reactant | 1-[1-(Pyridin-2-yl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-7-ol | 5.52 mmol, 1.75 g | N1=C(C=CC=C1)C1(CCC1)C1NCCC2=CC=C(C=C12)O | C18H20N2O
reactant | Diisopropylethylamine | 16.57 mmol, 2.89 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 5.52 mmol, 1.21 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | tert-Butyl 7-hydroxy-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate | OC1=CC=C2CCN(C(C2=C1)C1(CCC1)C1=NC=CC=C1)C(=O)OC(C)(C)C | C23H28N2O3
